US07786132B2
(iii) 7-Phenyl-4,5-dihydrothieno[2,3-c]pyridine
N-(2-(Thiophen-3-yl)ethyl)benzamide (1.5 g, 6.48 mmol) suspended in xylenes (20 mL) was treated with phosphorous oxychloride (3.62 mL, 38 mmol) and phosphorous pentoxide (5.39 g, 19 mmol). The mixture was heated to reflux for 3 h and the volatiles were removed in vacuo. The residue was diluted with cold water and ethyl acetate. 5 N sodium hydroxide was added and the mixture and the layers were separated. The aqueous layer was extracted twice more with ethyl acetate. All the organic layers were combined and washed with aqueous solution of sodium bicarbonate, water, then brine. The organic layer was dried with sodium sulfate and purified by flash chromatography using a gradient of 20 to 60% of ethyl acetate in hexanes to afford a light yellow clear oil (1.28 g). MS (M+H)+ 214.

reactant | N-(2-(Thiophen-3-yl)ethyl)benzamide | 6.48 mmol, 1.5 g | S1C=C(C=C1)CCNC(C1=CC=CC=C1)=O | C13H13NOS
reactant | phosphorous oxychloride | 38 mmol, 3.62 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | phosphorous pentoxide | 19 mmol, 5.39 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
product | 7-Phenyl-4,5-dihydrothieno[2,3-c]pyridine | 1.28 g | C1(=CC=CC=C1)C1=NCCC2=C1SC=C2 | C13H11NS
